US06906072B1
Reference Example 31 3-cyano-5-(1-hydroxy-2-methylpropyl)Thiophene
3-Cyano-5-thiophenecarboaldehyde (2.00 g) was dissolved in anhydrous ether (100 ml) and anhydrous tetrahydrofuran (THF) (20 ml), and an ether solution (10.9 ml) of (2.0 M) isopropylmagnesium chloride was added thereto. After stirring at 0° C. for 2 hours, ethyl acetate was added thereto. The mixture was washed with an aqueous saturated ammonium chloride and further brine, dried over anhydrous magnesium sulfate and then evaporated. The resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate system), to give the title compound as a pale yellow oil (1.25 g, 47%).

reactant | 3-Cyano-5-thiophenecarboaldehyde | 2.00 g | C(#N)C1=CSC(=C1)C=O | C6H3NOS
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | isopropylmagnesium chloride | 2.0 M | C(C)(C)[Mg]Cl
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 10.9 ml | CCOCC | C4H10O
product | 3-cyano-5-(1-hydroxy-2-methylpropyl)Thiophene | 1.25 g, 47% | C(#N)C1=CSC(=C1)C(C(C)C)O | C9H11NOS
